US07125901B2
To a suspension of N-{4-(4-formylphenyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (360 mg) in chloroform (7 ml) was added (carbethoxymethylene)triphenylphosphorane (626 mg) at 20° C., and the mixture was stirred for 1 h. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel (150 ml) with hexane/ethyl acetate (1:1–1:2) as an eluent to give ethyl (2E)-3-(4-{2-(acetylamino)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-4-yl}phenyl)acrylate as a pale yellow solid.

reactant | N-{4-(4-formylphenyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 360 mg | C(=O)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C19H16N2O4S2
reactant | (carbethoxymethylene)triphenylphosphorane | 626 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl (2E)-3-(4-{2-(acetylamino)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-4-yl}phenyl)acrylate | C(C)(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)/C=C/C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C23H22N2O5S2
